US06960614B2
To a stirring solution of 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-benzoic acid pentafluorophenyl ester (171 mg, 0.306 mmol) and 4-hydroxytetrahydroisoxazol-2-ium chloride (BIONET, 58 mg, 0.46 mmol) in dimethylformamide (2 mL) was added 4-methylmorpholine (0.1 mL, 0.91 mmol). The resultant reaction mixture was stirred at ambient temperature for 3 h. Ethyl acetate (50 mL) was added the mixture was washed with water (3×10 mL) and saturated brine solution (10 mL). The extracts were dried over magnesium sulfate and concentrated in vacuo. Chromatography (10% methanol-dichloromethane) afforded a tan-colored oil that solidified upon standing. Recrystallization from acetone-ether afforded [3,4-Difluoro-2-(2-fluoro-4-iodo-phenylamino)-phenyl]-(4-hydroxy-isoxazolidin-2-yl)-methanone (61 mg, 43% yield) as a white powder: m.p. 122-124° C.; 1H NMR (400 MHz, Acetone-d6) δ 7.97 (br s, 1H), 7.51-7.45 (m, 2H), 7.38 (ddd, J=8.6, 1.7, 1.2 Hz, 1H), 7.12 (m, 1H), 6.68 (td, J=8.8, 5.2 Hz, 1H), 4.82 (m, 1H), 4.71 (br d, J=4.2 Hz, OH), 3.98 (dd, J=8.8, 4.2 Hz, 1H), 3.96-3.88 (m, 2H), 3.75 (dd, J=11.8, 0.9 Hz, 1H); 19F-NMR (376 MHz, Acetone-d6) δ −30.5, −135.4, −144.4. Anal Calcd/Found C16H12F3IN2O3: C, 41.40/41.52; H, 2.61/2.53; N, 6.03/6.05.

reactant | 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-benzoic acid pentafluorophenyl ester | 0.306 mmol, 171 mg | FC1=C(C(=C(C(=C1OC(C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)=O)F)F)F)F | C19H6F8INO2
reactant | 4-hydroxytetrahydroisoxazol-2-ium chloride | 0.46 mmol, 58 mg | [Cl-].OC1C[NH2+]OC1
reactant | 4-methylmorpholine | 0.91 mmol, 0.1 mL | CN1CCOCC1 | C5H11NO
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | [3,4-Difluoro-2-(2-fluoro-4-iodo-phenylamino)-phenyl]-(4-hydroxy-isoxazolidin-2-yl)-methanone | 61 mg, 43% yield | FC=1C(=C(C=CC1F)C(=O)N1OCC(C1)O)NC1=C(C=C(C=C1)I)F | C16H12F3IN2O3
